US05455253
2-Trifluoromethyl-4-(3-nitrophenyl)-4,6,7,8-tetrahydro-5(1H)quinolone.
A suspension of 3-carboxy-2-trifluoromethyl-2-hydroxy-4-(3-nitrophenyl)-4,6,7,8-tetrahydro-5(1H)-quinolone (3.17 g) in toluene (150 mL) was treated with p-toluenesulfonic acid monohydrate (0.32 g), the mixture refluxed vigorously under Dean-Stark conditions for 4 hours and then partitioned between water and ethyl acetate. The organic phase was washed (water and brine) and evaporated. The residue was purified by chromatography (hexane/ethyl acetate, 1:1 and methylene chloride/acetonitrile 95:5) to yield the title compound (0.83 g) as a pale yellow solid; mp 215°-216° C.; NMR: 1.77-2.00 (m,2, CH2), 2.16-2.36 (m,2, CH2), 2.50-2.71 (m,2, CH2), 4.79 (d,1, J=4.1, CH), 5.67 (d,1, J=5.4, CH), 7.57-7.67 (m,2, Ar), 8.04 (m,2, Ar), 9.48 (s,1, NH); MS: m/z=338(M). Analysis for C16H13F3N2O3 : Calculated C, 56.81; H, 3.87; N, 8.28; Found: C, 56.74; H, 4.02; N, 8.28.

reactant | 3-carboxy-2-trifluoromethyl-2-hydroxy-4-(3-nitrophenyl)-4,6,7,8-tetrahydro-5(1H)-quinolone | 3.17 g | C(=O)(O)C1C(NC=2CCCC(C2C1C1=CC(=CC=C1)[N+](=O)[O-])=O)(O)C(F)(F)F | C17H15F3N2O6
reactant | p-toluenesulfonic acid monohydrate | 0.32 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Trifluoromethyl-4-(3-nitrophenyl)-4,6,7,8-tetrahydro-5(1H)quinolone | 0.83 g | FC(C=1NC=2CCCC(C2C(C1)C1=CC(=CC=C1)[N+](=O)[O-])=O)(F)F | C16H13F3N2O3
